2157-02-19 05:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2157-2-18**] 10:59 PM
 MULTI LUMEN - START [**2157-2-19**] 12:30 AM
 BLOOD CULTURED - At [**2157-2-19**] 04:00 AM
   2 sets sent
   Patient lethargic this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-2-19**] 04:20 AM
   Infusions:
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2157-2-19**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-19**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 100 (100 - 137) bpm
   BP: 102/41(61) {86/33(49) - 113/47(64)} mmHg
   RR: 17 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 348 (2 - 357)mmHg
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                    575 mL
                                                                  3,621 mL
   PO:
   TF:
   IVF:
                                                                    575 mL
                                                                  3,049 mL
   Blood products:
                                                                    572 mL
   Total out:
                                                                  1,950 mL
                                                                     15 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                    500 mL
   Balance:
                                                                 -1,375 mL
                                                                  3,606 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.38/33/104/19/-4
   Vitals: T: 99 BP: 92/47 on phenylephrine P: 137 R: 22 O2:  96% on 3L NC
   General: sleepy, able to answer questions with significant delay but
   kept falling asleep
   HEENT: Sclera mildly icteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   ronchi
   CV: Hyperdynamic precordium, Regular rate and rhythm, normal S1 + S2,
   no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present,
   colostomy bag in place
   Ext: hands and feet cool but palpable dp and radial pulses.  R thigh
   edematous
   Labs / Radiology
   188 K/uL
   6.2 g/dL
   97 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.9 mEq/L
   37 mg/dL
   104 mEq/L
   139 mEq/L
   17.6 %
   16.4 K/uL
        [image002.jpg]
                             [**2157-2-18**]  11:09 PM
                             [**2157-2-19**]  01:37 AM
                             [**2157-2-19**]  03:54 AM
   WBC
   26.1
   16.4
   Hct
   24.4
   17.6
   Plt
   274
   188
   Cr
   3.1
   TCO2
   20
   Glucose
   97
   Other labs: PT / PTT / INR:24.0/37.7/2.3, Lactic Acid:7.6 mmol/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   This is a 59yM with ESRD on HD, HTN, CAD, dCHF, amyloid lesions,
   admitted [**12-10**] for septic left wrist washout, c/b new pAFIB/aflutter
   [**12-10**], MSSA endocarditis with new AR/MR s/p 6wk abx, right hip fx s/p
   hemi-arthroplasty [**1-11**] with revision [**1-26**], and ischemic colitis s/p
   hemicolectomy with ostomy 12/4-6, ongoing fevers, now w/ hypotension in
   the setting of R hip hardware removal and bleeding from wound site.
   .
   # Hypotension: Likely from blood loss but also could be from septic
   physiology from bacteremia in the setting of R-hip hardware removal.
   Initial high MV02 implies septic shock.
   - IVF/blood products (see below) for goal CVP > 12
   - NorEpi for blood pressure support.
   - Vanc/Ceftaz for sepsis
   - blood cx
   - f/u wound cx
   - Repeat MV02
   - RIJ placed
   .
   # R hip infection: s/p hemiarthroplasty [**1-11**] revised [**1-26**] now s/p
   hardware removal. wound cx pending from today's procedure.
   - cover w/ Vanc/ceftaz as above
   - appreciate ID recs
   - Ortho recs
   .
   # Acute blood-loss anemia: Likely secondary to being on ASA and
   coagulopathy from coumadin.  Bleeding into thigh (surgical site)
   - FFP PRN w/ goal INR of 1.5
   - transfuse w/ goal hct > 25 unless MV02 < 70
   - Follow fibrinogen
   .
   # CAD: hold ASA given bleeding
   .
   # Heart failure: Systolic, Diastolic and R-sided w/ [**2-11**]+ AR, 3+ MR, +1
   TR.  Although has a "normal EF", clearly in the setting of 3+ MR [**First Name (Titles) **]
[**Last Name (Titles) 4926**]lly has systolic heart failure as well.  Currently appears dry
   w/ CVP of 4.
   - volume recussitation as above
   - hold b-blocker in setting of hypotension
   .
   # Afib: not rate controlled but currently hypotensive.  Hold coumadin
   in the setting of bleeding.
   - continue dig
   .
   # Recent h/o ischemic colitis:  s/p hemicolectomy with ostomy 12/4-6
   .
   # ESRD on HD: s/p dialysis today, appreciate continued renal input
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots
   .
   # Access: peripherals, R art line placed [**2-17**], RIJ placed [**2-18**]
   .
   # Code: full (confirmed)
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2157-2-18**] 10:59 PM
   20 Gauge - [**2157-2-18**] 11:00 PM
   18 Gauge - [**2157-2-18**] 11:00 PM
   Multi Lumen - [**2157-2-19**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-02-19 09:07:00 Physician Attending Progress Note
Chief Complaint: Shock--Hypovolemic
   Post Operative Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2157-2-18**] 10:59 PM
 MULTI LUMEN - START [**2157-2-19**] 12:30 AM
 BLOOD CULTURED - At [**2157-2-19**] 04:00 AM
   2 sets sent
   CT--Hematoma into thigh, no intrabdominal blood noted
   JP drainage continuing--1400cc out overnight
   Levophed for persistent hypotension
   1 unit given overnight
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-2-19**] 04:20 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2157-2-19**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Musculoskeletal: Joint pain
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2157-2-19**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 112 (100 - 137) bpm
   BP: 88/41(58) {86/33(49) - 113/47(67)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 329 (1 - 329)mmHg
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                    575 mL
                                                                  5,125 mL
   PO:
   TF:
   IVF:
                                                                    575 mL
                                                                  4,203 mL
   Blood products:
                                                                    922 mL
   Total out:
                                                                  1,950 mL
                                                                     15 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                    500 mL
   Balance:
                                                                 -1,375 mL
                                                                  5,110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.41/36/133/19/0
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Delirium noted overnight
   EXT
Right hip with tense hematoma, no surrounding erythema
   Labs / Radiology
   6.2 g/dL
   163 K/uL
   97 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.9 mEq/L
   37 mg/dL
   104 mEq/L
   139 mEq/L
   17.3 %
   15.3 K/uL
        [image002.jpg]
                             [**2157-2-18**]  11:09 PM
                             [**2157-2-19**]  01:37 AM
                             [**2157-2-19**]  03:54 AM
                             [**2157-2-19**]  05:00 AM
                             [**2157-2-19**]  06:17 AM
   WBC
   26.1
   16.4
   15.3
   Hct
   24.4
   17.6
   17.3
   Plt
   274
   188
   163
   Cr
   3.1
   TCO2
   20
   24
   Glucose
   97
   Other labs: PT / PTT / INR:24.0/37.7/2.3, ALT / AST:[**9-3**], Alk Phos / T
   Bili:121/1.5, Lactic Acid:3.0 mmol/L, LDH:261 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Fluid analysis / Other labs: 7.41/36/133
   Lactate-7.6-->4
   Imaging: CXR--Right IJ in good position, suggestion of RLL infiltrate
   Microbiology: No new results
   Assessment and Plan
   59 yo male with admission to Ortho Service for removal of right hip
   prosthesis.  In post operative period patient with hypotension
   requiring admission to ICU.  Patient with prolonged hospital course
   complicated by A-Fib, bowel ischemia and hip replacement suspected to
   be localizing focus of persistent infection.  In the post operative
   period patient did have significant hypotension noted.  This is in the
   setting of ongoing brisk drainage from surgical site--blood loss
   leading to hypovolemic shock is susptected.
   1)Shock--Hypovolemic is being considered most likely given exam and
   ongoing blood loss.  This in the setting of significant MR will likely
   lead to persistent and difficult process to move to stabilization.
   -Levophed to continue and will wean as possible
   -Initial central venous saturation is elevated which is unusual and in
   fact inconsistent with hypovolemic shock
   -Will repeat CvO2
   -Replace blood loss
   -Continue antibiotics
   2)Anemia--Secondary to blood loss
   -Transfuse to HCT=24
   -Continue drainage
   -Will need ortho to consider re-exploration threshold
   3)Chronic Renal Failure-
   -Renal consulting and considering timing of repeat dialysis
   -IVF to be used carefully
   4)MSSA endocarditis
   -Gent/Vanco/CTZ
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2157-2-18**] 10:59 PM
   20 Gauge - [**2157-2-18**] 11:00 PM
   18 Gauge - [**2157-2-18**] 11:00 PM
   Multi Lumen - [**2157-2-19**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2157-02-20 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID ok with Vanc and Cefipime for enterococcus from the hip culture,
   d/c gentamicin
   - Transfused an additional 2 units of FFP for INR 2.4
   - Ortho contact[**Name (NI) **] regarding hematoma in hip, concerned since patient
   continuing to put out blood from site during the day up to 600cc
   - Gave 20mcg of DDAVP for uremic bleeding
   - 12AM: Hct stable at 22, appropriate increase from 20 with 2 units,
   decreased amount of output from wound vac down to 100cc total overnight
   - Abdominal pain at 2AM, dark green stools noted in ostomy bag, guiac
   and sent for c diff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-2-19**] 04:20 AM
   Cefipime - [**2157-2-20**] 12:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-2-19**] 12:40 PM
   Hydromorphone (Dilaudid) - [**2157-2-20**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-20**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36
C (96.8
   HR: 89 (78 - 128) bpm
   BP: 128/40(65) {83/33(53) - 132/52(78)} mmHg
   RR: 23 (15 - 39) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 6 (3 - 329)mmHg
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  8,575 mL
                                                                    170 mL
   PO:
   TF:
   IVF:
                                                                  4,566 mL
                                                                    170 mL
   Blood products:
                                                                  4,009 mL
   Total out:
                                                                    865 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                    450 mL
   Balance:
                                                                  7,710 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.11/77/175/22/-7
   Physical Examination
   Vitals: T: 99 BP: 92/47 on phenylephrine P: 137 R: 22 O2:  96% on 3L NC
   General: sleepy, able to answer questions with significant delay but
   kept falling asleep
   HEENT: Sclera mildly icteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   ronchi
   CV: Hyperdynamic precordium, Regular rate and rhythm, normal S1 + S2,
   no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present,
   colostomy bag in place
   Ext: hands and feet cool but palpable dp and radial pulses.  R thigh
   edematous
   Labs / Radiology
   107 K/uL
   8.5 g/dL
   69 mg/dL
   4.3 mg/dL
   22 mEq/L
   5.2 mEq/L
   53 mg/dL
   104 mEq/L
   141 mEq/L
   23.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2157-2-18**]  11:09 PM
                             [**2157-2-19**]  01:37 AM
                             [**2157-2-19**]  03:54 AM
                             [**2157-2-19**]  05:00 AM
                             [**2157-2-19**]  06:17 AM
                             [**2157-2-19**]  11:45 AM
                             [**2157-2-19**]  04:08 PM
                             [**2157-2-19**]  11:39 PM
                             [**2157-2-20**]  03:49 AM
                             [**2157-2-20**]  04:43 AM
   WBC
   26.1
   16.4
   15.3
   12.0
   8.1
   6.7
   Hct
   24.4
   17.6
   17.3
   22.7
   20.5
   22.8
   23.3
   Plt
   274
   188
   163
   138
   115
   107
   Cr
   3.1
   3.9
   4.3
   TCO2
   20
   24
   26
   Glucose
   97
   80
   69
   Other labs: PT / PTT / INR:18.2/36.9/1.7, ALT / AST:[**9-3**], Alk Phos / T
   Bili:121/1.5, Fibrinogen:306 mg/dL, Lactic Acid:6.1 mmol/L, LDH:261
   IU/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   This is a 59yM with ESRD on HD, HTN, CAD, dCHF, amyloid lesions,
   admitted [**12-10**] for septic left wrist washout, c/b new pAFIB/aflutter
   [**12-10**], MSSA endocarditis with new AR/MR s/p 6wk abx, right hip fx s/p
   hemi-arthroplasty [**1-11**] with revision [**1-26**], and ischemic colitis s/p
   hemicolectomy with ostomy 12/4-6, ongoing fevers, now w/ hypotension in
   the setting of R hip hardware removal and bleeding from wound site.
   .
   # Hypotension: Likely from blood loss but also could be from septic
   physiology from bacteremia in the setting of R-hip hardware removal.
   Initial high MV02 implies septic shock.
   - IVF/blood products (see below) for goal CVP > 12
   - Off of pressors currently
   - Vanc/Cefipime for sepsis
   - blood cx
   - f/u wound cx
   - RIJ placed yesterday
   .
   # R hip infection: s/p hemiarthroplasty [**1-11**] revised [**1-26**] now s/p
   hardware removal. wound cx pending from today's procedure.
   - cover w/ Vanc/cefipime as above
   - appreciate ID recs
   - Ortho recs
   .
   # AMS: Could be result of infection.  Could also be uremia.  Patient
   also on Dilaudid which could contribute.
   - Review medications to determine if possible contributor present.
   - Scheduled for HD on Monday
   - Continue antibiotics
   - Maintain BP, though not currently hypotensive
   .
   # Acute blood-loss anemia: Likely secondary to being on ASA and
   coagulopathy from coumadin.  Bleeding into thigh (surgical site)
   - FFP PRN w/ goal INR of 1.5
   - transfuse w/ goal hct > 25 unless MV02 < 70
   - Follow fibrinogen
   - Continue wound vac as bleeding decreased
   .
   # CAD: hold ASA given bleeding
   .
   # Heart failure: Systolic, Diastolic and R-sided w/ [**2-11**]+ AR, 3+ MR, +1
   TR.  Although has a "normal EF", clearly in the setting of 3+ MR [**First Name (Titles) **]
[**Last Name (Titles) 4926**]lly has systolic heart failure as well.  Currently appears dry
   w/ CVP of 4.
   - volume resuscitation as above
   - hold b-blocker in setting of hypotension
   .
   # Afib: not rate controlled but currently hypotensive.  Hold coumadin
   in the setting of bleeding.
   - continue dig
   .
   # Recent h/o ischemic colitis:  s/p hemicolectomy with ostomy 12/4-6
   .
   # ESRD on HD: s/p dialysis today, appreciate continued renal input
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots
   .
   # Access: peripherals, R art line placed [**2-17**], RIJ placed [**2-18**]
   .
   # Code: full (confirmed)
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2157-2-18**] 10:59 PM
   18 Gauge - [**2157-2-18**] 11:00 PM
   Multi Lumen - [**2157-2-19**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-02-20 10:31:00 Physician Attending Progress Note
Chief Complaint: Blood Loss Anemia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued drainage from hip wound site--250cc in past 14 hours
   Green stool from rectum noted
   All pressors D/C'd at 5pm yesterday
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-2-19**] 04:20 AM
   Cefipime - [**2157-2-20**] 12:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-2-19**] 12:40 PM
   Hydromorphone (Dilaudid) - [**2157-2-20**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-20**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36
C (96.8
   HR: 91 (78 - 128) bpm
   BP: 137/43(70) {103/33(53) - 137/52(78)} mmHg
   RR: 22 (15 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 5 (3 - 12)mmHg
   Mixed Venous O2% Sat: 69 - 95
                                Total In:
                                                                  8,575 mL
                                                                    203 mL
   PO:
                                TF:
   IVF:
                                                                  4,566 mL
                                                                    203 mL
   Blood products:
                                                                  4,009 mL
   Total out:
                                                                    865 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                    450 mL
   Balance:
                                                                  7,710 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.11/77/175/22/-7
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Drain to suction--decreased drainage rate, no change in
   hip exam
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   107 K/uL
   69 mg/dL
   4.3 mg/dL
   22 mEq/L
   5.2 mEq/L
   53 mg/dL
   104 mEq/L
   141 mEq/L
   23.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2157-2-19**]  01:37 AM
                             [**2157-2-19**]  03:54 AM
                             [**2157-2-19**]  05:00 AM
                             [**2157-2-19**]  06:17 AM
                             [**2157-2-19**]  11:45 AM
                             [**2157-2-19**]  04:08 PM
                             [**2157-2-19**]  11:39 PM
                             [**2157-2-20**]  03:49 AM
                             [**2157-2-20**]  04:43 AM
                             [**2157-2-20**]  08:33 AM
   WBC
   16.4
   15.3
   12.0
   8.1
   6.7
   Hct
   17.6
   17.3
   22.7
   20.5
   22.8
   23.3
   23.9
   Plt
   188
   163
   138
   115
   107
   Cr
   3.9
   4.3
   TCO2
   20
   24
   26
   Glucose
   80
   69
   Other labs: PT / PTT / INR:17.7/35.1/1.6, ALT / AST:[**9-3**], Alk Phos / T
   Bili:121/1.5, Fibrinogen:306 mg/dL, Lactic Acid:1.1 mmol/L, LDH:261
   IU/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   59 yo male admitted to ICU with brisk bleeding from site of hip
   surgery--in the setting of FFP and Vitamin K and DDAVP patient has had
   some meaningful decrease in drainage rate from the site.   He has
   reasonable improvement in hemodynamics with capacity to discontinue
   pressors with fluid given and decrease in blood loss rate.
   1)Blood Loss Anemia-
   -Will continue drain suction for now
   -Could have packing but would defer to surgical team
   -Reasonable to maintain INR in this range
   -HCT likely replaced to reasonable level
   2)Hypotension-Improved with stability of blood loss
   -Continue I/O even today
   -ScVO2 at 69% is fairly non-specific and clinical care for hypovolemia
   is most consistent.
   3)Endocarditis-
   -Vanco/Cefepime to continue
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition: PO-clears
   Glycemic Control:
   Lines:
   Arterial Line - [**2157-2-18**] 10:59 PM
   18 Gauge - [**2157-2-18**] 11:00 PM
   Multi Lumen - [**2157-2-19**] 12:30 AM
   Prophylaxis:
   DVT: Boots as tolerated
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-02-21 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -advanced diet to regular with renal supplement
   -Increased tylenol to try to decrease dilaudid requirment-to see if
   improves mental status
   -Per ortho vac change in AM
   -Per Renal-HD on Monday
   -Grew VRE, d/c'd vanc and started dapto and continue cefepime
   -Trx 2 U pRBC  for HCT 23
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-2-19**] 04:20 AM
   Cefipime - [**2157-2-20**] 08:19 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2157-2-20**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-21**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 88 (77 - 101) bpm
   BP: 133/51(77) {117/40(65) - 153/59(83)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 18 (5 - 18)mmHg
   CO/CI (Fick): (37.8 L/min) / (21.9 L/min/m2)
   Mixed Venous O2% Sat: 95 - 95
                                Total In:
                                                                    830 mL
                                                                    774 mL
   PO:
                                                                    390 mL
                                TF:
   IVF:
                                                                    440 mL
                                                                     74 mL
   Blood products:
   700 mL
   Total out:
                                                                    600 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    574 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Vitals: T: 99 BP: 92/47 on phenylephrine P: 137 R: 22 O2:  96% on 3L NC
   General: sleepy, able to answer questions with significant delay but
   kept falling asleep
   HEENT: Sclera mildly icteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   ronchi
   CV: Hyperdynamic precordium, Regular rate and rhythm, normal S1 + S2,
   no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present,
   colostomy bag in place
   Ext: hands and feet cool but palpable dp and radial pulses.  R thigh
   edematous
   Labs / Radiology
   96 K/uL
   10.2 g/dL
   105 mg/dL
   5.3 mg/dL
   20 mEq/L
   5.7 mEq/L
   69 mg/dL
   104 mEq/L
   137 mEq/L
   27.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2157-2-19**]  06:17 AM
                             [**2157-2-19**]  11:45 AM
                             [**2157-2-19**]  04:08 PM
                             [**2157-2-19**]  11:39 PM
                             [**2157-2-20**]  03:49 AM
                             [**2157-2-20**]  04:43 AM
                             [**2157-2-20**]  08:33 AM
                             [**2157-2-20**]  02:28 PM
                             [**2157-2-20**]  09:06 PM
                             [**2157-2-21**]  04:15 AM
   WBC
   12.0
   8.1
   6.7
   5.9
   Hct
   22.7
   20.5
   22.8
   23.3
   23.9
   24.2
   23.5
   27.8
   Plt
   138
   115
   107
   96
   Cr
   3.9
   4.3
   5.3
   TCO2
   24
   26
   Glucose
   80
   69
   105
   Other labs: PT / PTT / INR:15.8/32.2/1.4, ALT / AST:[**9-3**], Alk Phos / T
   Bili:121/1.5, Fibrinogen:306 mg/dL, Lactic Acid:1.1 mmol/L, LDH:261
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.3 mg/dL
   Imaging: None
   Microbiology: BCx Pending
   CDiff Negative
   Assessment and Plan
   59yM with ESRD on HD, HTN, CAD, dCHF, amyloid lesions, transferred post
   operatively from PACU s/p R hip hardware removal with hypotension and
   bleeding from wound site.
   # Hypotension: Resolved
   - IVF/blood products (see below) for goal CVP > 12
   - Off of pressors currently
   - Cefepime for presumed sepsis
   - RIJ placed
   # R hip infection: s/p hemiarthroplasty [**1-11**] revised [**1-26**] now s/p
   hardware removal. wound cx pending from today's procedure.
   - appreciate ID recs
   - Ortho recs
   # AMS: DDx: Infection, uremia, pain or narcotic effect.
   - Scheduled for HD Today
   - Continue antibiotics
   - Maintain BP, though not currently hypotensive
   # Acute blood-loss anemia: Likely secondary to being on ASA and
   coagulopathy from coumadin.  Bleeding into thigh (surgical site)
   - FFP PRN w/ goal INR of 1.5
   - transfuse w/ goal hct > 25 unless MV02 < 70
   - Follow fibrinogen
   - Continue wound vac as bleeding decreased
   # CAD: hold ASA given bleeding
   .
   # Heart failure: Systolic, Diastolic and R-sided w/ [**2-11**]+ AR, 3+ MR, +1
   TR.  Although has a "normal EF", clearly in the setting of 3+ MR [**First Name (Titles) **]
[**Last Name (Titles) 4926**]lly has systolic heart failure as well.
   - Continue to hold b-blocker
   .
   # Afib: Rate controlled but currently hypotensive.  Hold coumadin in
   the setting of bleeding.
   - continue dig
   .
   # Recent h/o ischemic colitis:  s/p hemicolectomy with ostomy 12/4-6
   .
   # ESRD on HD: s/p dialysis today, appreciate continued renal input
   # FEN: No IVF, replete electrolytes, Tube feeds
   # Prophylaxis: pneumoboots
   # Access: peripherals, R art line placed [**2-17**], RIJ placed [**2-18**]
   # Code: full (confirmed)
   # Communication: Patient
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2157-2-18**] 10:59 PM
   18 Gauge - [**2157-2-18**] 11:00 PM
   Multi Lumen - [**2157-2-19**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-02-22 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-2-21**] 08:15 PM
   [**2157-2-21**]
   - NPO p MN for ortho washout in AM
   - Episodes of asymptomatic bradycardia, TWI V5-6, CE pending,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2157-2-20**] 08:19 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2157-2-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-22**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 78 (67 - 88) bpm
   BP: 143/50(78) {98/32(58) - 159/56(87)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 19 (10 - 19)mmHg
   Total In:
                                                                  1,637 mL
   PO:
                                                                    420 mL
   TF:
                                                                    327 mL
   IVF:
                                                                    190 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  5,060 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    460 mL
   Balance:
                                                                 -3,423 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General: Awake not oriented to time
   HEENT: Sclera mildly icteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   ronchi
   CV: S1 & S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present,
   colostomy bag in place.  Midline fistula scar with VAC in place.
   Ext: hands and feet cool but palpable dp and radial pulses.  R thigh
   edematous, TTP wound vac in place
   Labs / Radiology
   106 K/uL
   10.4 g/dL
   93 mg/dL
   4.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   43 mg/dL
   102 mEq/L
   138 mEq/L
   28.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2157-2-19**]  11:39 PM
                             [**2157-2-20**]  03:49 AM
                             [**2157-2-20**]  04:43 AM
                             [**2157-2-20**]  08:33 AM
                             [**2157-2-20**]  02:28 PM
                             [**2157-2-20**]  09:06 PM
                             [**2157-2-21**]  04:15 AM
                             [**2157-2-21**]  12:49 PM
                             [**2157-2-21**]  08:42 PM
                             [**2157-2-22**]  03:09 AM
   WBC
   6.7
   5.9
   6.1
   Hct
   22.8
   23.3
   23.9
   24.2
   23.5
   27.8
   29.8
   29.3
   28.8
   Plt
   107
   96
   106
   Cr
   4.3
   5.3
   4.2
   TropT
   0.27
   0.27
   TCO2
   26
   Glucose
   69
   105
   93
   Other labs: PT / PTT / INR:15.8/32.2/1.4, CK / CKMB /
   Troponin-T:25//0.27, ALT / AST:[**9-3**], Alk Phos / T Bili:121/1.5,
   Fibrinogen:306 mg/dL, Lactic Acid:1.1 mmol/L, LDH:261 IU/L, Ca++:8.9
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   59yM with ESRD on HD, HTN, CAD, dCHF, amyloid lesions, transferred post
   operatively from PACU s/p R hip hardware removal for hypotension and
   bleeding from wound site.  He remains normotensive and his Hct appears
   to be stable s/p transfusion.
   # Hypotension: Resolved after volume resuscitation
   - RIJ placed
   # Septic arthritis: s/p hemiarthroplasty [**1-11**] revised [**1-26**] now s/p
   hardware removal. wound cx grew [**Name (NI) 1685**]
    - Pt to go to the OR today for wash out and attempt at closure
   - appreciate ID recs, will continue daptomycin and ciprofloxacin and
   follow sensitivities
   - follow Ortho recs
   - CK in one week to monitor Dapto
   # AMS: DDx: Infection, uremia, pain or narcotic effect.
   - Scheduled for HD Tomorrow
   - Continue antibiotics
   - Maintain BP, though not currently hypotensive
   # Acute blood-loss anemia: resolved Likely secondary to being on ASA
   and coagulopathy from coumadin.  Bleeding into thigh (surgical site)
   - FFP PRN w/ goal INR of 1.5
   - transfuse w/ goal hct > 25 unless MV02 < 70
   - Follow fibrinogen
   - Continue wound vac as bleeding decreased
   - Hct q6H
   # CAD: hold ASA given bleeding
   .
   # Heart failure: Systolic, Diastolic and R-sided w/ [**2-11**]+ AR, 3+ MR, +1
   TR.  Although has a "normal EF", clearly in the setting of 3+ MR [**First Name (Titles) **]
[**Last Name (Titles) 4926**]lly has systolic heart failure as well.
   - Continue to hold b-blocker
   .
   # Afib: with episodes of bradycardia overnight, unclear etiology, but
   most likely sinus bradycardia.  Will not start beta blockers at this
   time.  Hold coumadin in the setting of bleeding.
   - continue dig
   .
   # Recent h/o ischemic colitis:  s/p hemicolectomy with ostomy 12/4-6
   - Follow Gen [**Doctor First Name **] recs
   .
   # ESRD on HD: on schedule for HD tomorrow, appreciate continued renal
   input
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: pneumoboots
   # Access: peripherals, R art line placed [**2-17**], RIJ placed [**2-18**]
   # Code: full (confirmed)
   # Communication: Patient
   # Disposition: ICU for now
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2157-2-18**] 10:59 PM
   18 Gauge - [**2157-2-18**] 11:00 PM
   Multi Lumen - [**2157-2-19**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: